US07482366B2
1,3-Dibromo-5-ethyl-benzene (1.54 g, 5.8 mmoles) was dissolved into anhydrous THF (20 mL) under nitrogen, and was chilled to −78° C. To this stirring solution was slowly (over 10 min) added t-BuLi (3.8 mL, 6.5 mmoles, 1.7M solution in pentane). After the addition was complete the mixture was allowed to stir at −78° C. for an additional 30 min. After this period isopropyl disulfide (1.4 mL, 8.8 mmoles) was added and the mixture was allowed to warm to ambient temperature. The reaction was then warmed to 75° C., and was stirred at this temperature for 16 hours. After this period the reaction mix was evaporated in vacuo and was purified using flash silica chromatography (0-1% EtOAc/Hexane) to yield 1-bromo-3-ethyl-5-isopropylsulfanyl-benzene (1.08 g, 72%) as a clear liquid. 1H-NMR (CDCl3): δ 7.34-7.32 (m, 1H), 7.19-7.17 (m, 1H), 7.13-7.11 (m, 1H), 3.39 (m, J=6.6 Hz, 1H), 2.59 (q, J=7.6 Hz, 2H), 1.30 (d, J=6.6 hz, 6H), 1.22 (t, J=7.6 Hz, 3H).

reactant | 1,3-Dibromo-5-ethyl-benzene | 5.8 mmoles, 1.54 g | BrC1=CC(=CC(=C1)CC)Br | C8H8Br2
reactant | t-BuLi | 6.5 mmoles, 1.7M, 3.8 mL | [Li]C(C)(C)C
reactant | isopropyl disulfide | 8.8 mmoles, 1.4 mL | C(C)(C)SSC(C)C | C6H14S2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-bromo-3-ethyl-5-isopropylsulfanyl-benzene | 1.08 g, 72% | BrC1=CC(=CC(=C1)SC(C)C)CC | C11H15BrS
